US05108486
To a stirred solution of 60.0 g (0.280 mole) of 2-chloro-4-nitrophenyl isothiocyanate in 500 ml of ethanol was added 12.9 g (0.280 mole) of methylhydrazine. This mixture was heated and was stirred at 65° C. for approximately 18 hours. The mixture was then heated to reflux and was cooled. A solid had formed and was collected by filtration. The filter cake was rinsed with aqueous ethanol and was dried under reduced pressure to yield 59.0 g of 4-(2-chloro-4-nitrophenyl)-2-methyl-3-thiosemicarbazide, mp 164°-167° C. The nmr spectrum was consistent with the proposed structure.

reactant | 2-chloro-4-nitrophenyl isothiocyanate | 0.280 mole, 60.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])N=C=S | C7H3ClN2O2S
reactant | methylhydrazine | 0.280 mole, 12.9 g | CNN | CH6N2
solvent | ethanol | 500 ml | C(C)O | C2H6O
product | 4-(2-chloro-4-nitrophenyl)-2-methyl-3-thiosemicarbazide | 59.0 g | ClC1=C(C=CC(=C1)[N+](=O)[O-])NC(N(N)C)=S | C8H9ClN4O2S
